US06452014B1
6-Chloro-2-[4-[(2,4-dioxothiazolidin-5-ylidene)methyl]phenyl]-4-(trifluoromethyl)benzimidazole was prepared from 5-(4-formylbenzylidene)-2,4-thiazolidinedione and 5-chloro-3-trifluoromethyl-1,2-phenylenediamine by following General Procedure 2.

reactant | 5-(4-formylbenzylidene)-2,4-thiazolidinedione | C(=O)C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C11H7NO3S
reactant | 5-chloro-3-trifluoromethyl-1,2-phenylenediamine | ClC=1C=C(C(=C(C1)N)N)C(F)(F)F | C7H6ClF3N2
product | 6-Chloro-2-[4-[(2,4-dioxothiazolidin-5-ylidene)methyl]phenyl]-4-(trifluoromethyl)benzimidazole | ClC=1C=C(C2=C(N=C(N2)C2=CC=C(C=C2)C=C2C(NC(S2)=O)=O)C1)C(F)(F)F | C18H9ClF3N3O2S
